*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1608M(0603)/X5R(-55to85[deg])/1.00e+01[uF]/6.3[V]
* Murata P/N :GRM188R60J106ME47
* Property : C = 1.00e+01[uF]
* Data Generated on Jun 10, 2025
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM188R60J106ME47 Port1 Port2
C01 Port1 N01 6.96e-06
R01 Port1 N01 5.00e+06
L02 N01 N02 1.80e-10
R03 N02 N03 2.59e-03
C04 N03 N04 2.55e-04
R04 N03 N04 2.08e+01
C05 N04 N05 3.72e-04
R05 N04 N05 1.25e+00
C06 N05 N06 5.07e-04
R06 N05 N06 9.10e-02
C07 N06 N07 4.89e-04
R07 N06 N07 9.20e-03
C08 N07 N08 3.99e-04
R08 N07 N08 1.19e-03
L09 N08 N09 2.16e-11
R09 N08 N09 8.41e-02
L10 N09 N10 4.23e-11
R10 N09 N10 2.08e-02
L11 N10 N11 3.30e-10
R11 N10 N11 1.51e-02
C12 N11 N12 3.81e-05
L12 N11 N12 3.12e-11
R12 N11 N12 2.14e-03
C13 N12 N13 3.50e-05
L13 N12 N13 2.07e-11
R13 N12 N13 2.04e-03
C14 N13 Port2 7.71e-12
L14 N13 Port2 4.56e-11
R14 N13 Port2 6.30e+00
.ENDS GRM188R60J106ME47
